US08377949B2
(R)-amino-cyclohexyl-acetic acid methyl ester hydrochloride
To a solution of acetyl chloride (0.5 mL, 7.04 mmol) in MeOH (10 mL) at 0° C. is added (R)-amino-cyclohexyl-acetic acid hydrochloride (1.0 g, 5.16 mmol). The mixture is stirred at 60° C. for 16 hours. The reaction mixture is allowed to cool to room temperature and concentrated. The resulting residue is triturated with Et2O to afford the title compound (1.0 g, 93%).

reactant | acetyl chloride | 7.04 mmol, 0.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | (R)-amino-cyclohexyl-acetic acid hydrochloride | 5.16 mmol, 1.0 g | Cl.N[C@@H](C(=O)O)C1CCCCC1
solvent | MeOH | 10 mL | CO | CH4O
product | (R)-amino-cyclohexyl-acetic acid methyl ester hydrochloride | 1.0 g, 93% | Cl.COC([C@@H](C1CCCCC1)N)=O | InChI=1S/C9H17NO2.ClH/c1-12-9(11)8(10)7-5-3-2-4-6-7;/h7-8H,2-6,10H2,1H3;1H/t8-;/m1./s1
